US07652008B2
(±)-trans-2-Hydroxy-3,3-dimethyl-1-[(2-phenylethyl)amino]-2,3-dihydro-1H-pyrano[3,2-f]quinoline-8-carboxamide
To a solution of (±)-trans-2-hydroxy-3,3-dimethyl-1-[(2-phenylethyl)amino]-2,3-dihydro-1H-pyrano[3,2-f]quinoline-8-carbonitrile (400 mg, 1.07 mmol) in t-butanol (40 mL), potassium hydroxide (800 mg, 14.3 mmol) was added at room temperature and the resulting mixture was stirred at 90° C. for 2 hour. Upon the completion of the reaction, aqueous sodium chloride solution was added to the reaction solution, and it was extracted with ethyl acetate and the resulting organic phase was dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by column chromatography (hexane/ethyl acetate=1/1) and recrystallized from hexane-ethyl acetate to obtain the aimed product (yield: 54%).

reactant | (±)-trans-2-hydroxy-3,3-dimethyl-1-[(2-phenylethyl)amino]-2,3-dihydro-1H-pyrano[3,2-f]quinoline-8-carbonitrile | 1.07 mmol, 400 mg | O[C@H]1[C@@H](C2=C3C=CC(=NC3=CC=C2OC1(C)C)C#N)NCCC1=CC=CC=C1 | C23H23N3O2
reactant | potassium hydroxide | 14.3 mmol, 800 mg | [OH-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | t-butanol | 40 mL | C(C)(C)(C)O | C4H10O
product | (±)-trans-2-Hydroxy-3,3-dimethyl-1-[(2-phenylethyl)amino]-2,3-dihydro-1H-pyrano[3,2-f]quinoline-8-carboxamide | yield: 54% | O[C@H]1[C@@H](C2=C3C=CC(=NC3=CC=C2OC1(C)C)C(=O)N)NCCC1=CC=CC=C1 | C23H25N3O3
